US09428528B2
Step 2 Preparation of (4S,5R)-5-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
To a stirred solution of (4S,5R)-5-[4-(6-Dimethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (260 mg, 0.569 mmol) in dry tetrahydrofuran (6.5 mL) is added 2M toluene solution BH3.DMS (130 mg, 1.708 mmol) at 0° C. Reaction heated to 65° C. for 16 hours. Methanol is added to reaction mixture and heated at 65° C. for 2 hours. Volatiles are removed under reduced pressure to obtain crude material purified by column chromatography eluting in 5% methanol in CH2Cl2 to afford the title compound (50 mg): LC-MS (m/z): [M+H]=444.

reactant | (4S,5R)-5-[4-(6-Dimethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.569 mmol, 260 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(N(C)C)=O)(C)C | C25H32FN3O4
reactant | toluene | 2M | C1(=CC=CC=C1)C | C7H8
reactant | DMS | 1.708 mmol, 130 mg | CSC | C2H6S
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | 6.5 mL | O1CCCC1 | C4H8O
product | (4S,5R)-5-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CN(C)C)(C)C | C25H34FN3O3
